US06992083B2
To a stirred solution of 30 g (193 mmol) 2-nitroresorcinol in 900 ml methanol was added 2.00 g 10% palladium on charcoal, and the mixture was then stirred for 18 h at room temperature under an atmosphere of hydrogen. The mixture was then filtered and the filtrate, which contained 2-aminoresorcinol, added dropwise to a stirred solution of 22.5 g (213 mmol) cyanogen bromide in 230 ml methanol and 100 ml water. Stirring was continued for 2 h at room temperature, and then the mixture was concentrated in vacuo. To the residue was added aqueous sodium bicarbonate solution, and the mixture was extracted three times with ethyl acetate. The combined organic phases were washed with saturated brine, dried over sodium sulfate, and concentrated in vacuo. Flash chromatography (ethyl acetate) followed by trituration in ether afforded 27.0 g (93%) 2-amino-benzooxazol-4-ol as a beige crystalline solid. EI-MS m/e (%): 150 (M+, 100), 107 (28).

reactant | 2-nitroresorcinol | 193 mmol, 30 g | [N+](=O)([O-])C1=C(O)C=CC=C1O | C6H5NO4
reactant | cyanogen bromide | 213 mmol, 22.5 g | N#CBr | CBrN
solvent | methanol | 900 ml | CO | CH4O
catalyst | palladium on charcoal | 2.00 g | [Pd] | Pd
solvent | methanol | 230 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 2-amino-benzooxazol-4-ol | 27.0 g, 93% | NC=1OC=2C(N1)=C(C=CC2)O | C7H6N2O2
